US07465798B2
Intermediate 16: 3-(Thiophen-2-yl)-2-oxopropyl acetate
The procedure described above for the synthesis of 3-(3,4-dichlorophenyl)-2-oxopropyl acetate was followed, reacting 1-chloro-3-(thiophen-2-yl)propan-2-one (1.00 g, 5.73 mmol) with acetic acid (0.66 mL, 0.69 g, 12 mmol) and triethylamine (1.60 mL, 1.16 g, 11.5 mmol). Purification by flash chromatography over silica gel (1040% ethyl acetate in hexanes) gave an orange oil (0.144 g, 13% yield): 1H NMR (400 MHz, CDCl3) δ 2.17 (s, 3H) 3.95 (s, 2H) 4.74 (s, 2H) 6.92-6.94 (m, 1H) 6.99 (dd, J=5.2, 3.4 Hz, 1H) 7.25 (dd, J=5.1, 1.3 Hz, 1H).

reactant | 3-(3,4-dichlorophenyl)-2-oxopropyl acetate | C(C)(=O)OCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O3
reactant | 1-chloro-3-(thiophen-2-yl)propan-2-one | 5.73 mmol, 1.00 g | ClCC(CC=1SC=CC1)=O | C7H7ClOS
reactant | acetic acid | 12 mmol, 0.66 mL, 0.69 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 11.5 mmol, 1.60 mL, 1.16 g | C(C)N(CC)CC | C6H15N
product | 3-(Thiophen-2-yl)-2-oxopropyl acetate | 0.144 g, 13% yield | C(C)(=O)OCC(CC=1SC=CC1)=O | C9H10O3S
